US07786108B2
Step 4. Preparation of Methyl 2-amino-5-methyl-4-trifluoromethylbenzoate
Add cesium fluoride (184.3 g, 1.21 mol), methyl boronic acid (63.7 g, 1.05 mol, 3 mol equiv.) and bis(diphenylphosphinoferrocene)palladium(II) chloride (27.83 g, 35.1 mmol) to a solution of methyl 2-amino-5-iodo-4-trifluoromethylbenzoate (121 g, 351 mmol) in anhydrous 1,4-dioxane (2.5 L) at room temperature under an atmosphere of nitrogen and heat the mixture at 80° C. for 3 h. Allow the mixture to cool to room temperature then partition between ethyl acetate (2.5 L) and water (2.5 L) and filter through a pad of Celite® to remove the fine black suspension. Extract the aqueous phase with ethyl acetate (2×100 mL) and wash the combined organic extracts with brine (1 L). Dry over anhydrous magnesium sulfate, filter and remove the solvent under reduced pressure at 45° C. to give a red oil. Purify the residue by column chromatography on silica gel, eluting with isohexane/ethyl acetate (9:1), to give the title compound as a pale yellow crystalline solid (75.25 g, 92%). 1H NMR (300 MHz, CDCl3) δ 7.73 (s, 1H), 6.93 (s, 1H), 5.70 (s, 2H), 3.90 (s, 3H), 2.33 (s, 3H).

reactant | cesium fluoride | 1.21 mol, 184.3 g | [F-].[Cs+]
reactant | methyl boronic acid | 1.05 mol, 63.7 g | CB(O)O | CH5BO2
reactant | methyl 2-amino-5-iodo-4-trifluoromethylbenzoate | 351 mmol, 121 g | NC1=C(C(=O)OC)C=C(C(=C1)C(F)(F)F)I | C9H7F3INO2
solvent | 1,4-dioxane | 2.5 L | O1CCOCC1 | C4H8O2
product | Methyl 2-amino-5-methyl-4-trifluoromethylbenzoate | 75.25 g, 92% | NC1=C(C(=O)OC)C=C(C(=C1)C(F)(F)F)C | C10H10F3NO2
